US07319102B1
Preparation of 4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde (18):
To a solution of [4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidin-5-yl]-methanol, 17, (0.97 g, 3.66 mmol) in CH2Cl2/THF (35 mL of 1:1 mixture) is added manganese (IV) oxide (2.54 g, 29.28 mmol). After stirring the suspension at room temperature for 43 hours, the mixture is filtered through celite, and washed with CH2Cl2. The filtrate is concentrated in vacuo and the resulting residue is purified over silica (5% MeOH/chloroform) to afford 0.52 g of the desired product: 1H NMR (300 MHz, CDCl3) δ 8.22 (s, NH), 10.58 (s, NH), 9,86 (s, 1H), 8.54 (s, 1H), 6.36 (s, 1H), 3.81 (s, 3H), 2.58 (s, 3H), 2.30 (s, 3H); ESI+ MS: m/z (rel intensity) 264.0 (100, M++H).

reactant | [4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidin-5-yl]-methanol | CN1N=C(C=C1NC1=NC(=NC=C1CO)SC)C | C11H15N5OS
solvent | CH2Cl2 THF | 35 mL | C(Cl)Cl.C1CCOC1
catalyst | manganese (IV) oxide | 29.28 mmol, 2.54 g | [O-2].[Mn+4].[O-2]
product | 4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 0.52 g | CN1N=C(C=C1NC1=NC(=NC=C1C=O)SC)C | C11H13N5OS
